US03950353
N-Methyl-N'-[2-(2 -pyrimidylmethylamino)ethyl]urea
By the procedure of Example 24, N-(2-pyrimidylmethyl)ethylenediamine is reacted with methyl isocyanate to give, after concentrating and separating the residue by column chromatography, the title compound.

reactant | N-(2-pyrimidylmethyl)ethylenediamine | N1=C(N=CC=C1)CNCCN | C7H12N4
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | N-Methyl-N'-[2-(2 -pyrimidylmethylamino)ethyl]urea | CNC(=O)NCCNCC1=NC=CC=N1 | C9H15N5O
